US07244726B2
6-{-[2-(2-Methylquinolin-5-oxy)ethyl]piperidin-4-ylidenemethyl}-1,3-dihydroindol-2-one (E13)
The title compound was prepared from 6-(piperidin-4-ylidenemethyl)-1,3-dihydroindol-2-one and 5-(2-bromoethoxy)-2-methylquinoline using a similar method to that of Description 11.

reactant | 6-(piperidin-4-ylidenemethyl)-1,3-dihydroindol-2-one | N1CCC(CC1)=CC1=CC=C2CC(NC2=C1)=O | C14H16N2O
reactant | 5-(2-bromoethoxy)-2-methylquinoline | BrCCOC1=C2C=CC(=NC2=CC=C1)C | C12H12BrNO
product | 6-{-[2-(2-Methylquinolin-5-oxy)ethyl]piperidin-4-ylidenemethyl}-1,3-dihydroindol-2-one | CC1=NC=2C=CC=C(C2C=C1)OCCC(C1=CC=C2CC(NC2=C1)=O)=C1CCNCC1 | C26H27N3O2
